US09303035B2
Step 1: 1,3,6-Trimethylpyrimidine-2,4(1H,3H)-dione
To a stirred suspension of N,N′-dimethylurea (commercial) (72.1 g, 819 mmol) and DMAP (commercial) (100 g, 819 mmol) in pyridine (300 mL) under N2 was added dropwise with stirring acetic anhydride (255 mL, 2701 mmol). On complete addition the reaction mixture was allowed to stir at RT for 3 hours. After this time, the volatiles were removed under reduced pressure to afford a viscous orange pyridine solution, which was seeded with product. The mixture was stored at 0-4° C. for 7 days. The resulting crystalline solid was filtered under reduced pressure, washed with diethyl ether and dried to afford the title compound as colourless crystals. The mother liquors were further purified by chromatography on silica eluting with 30-50% EtOAc in iso-hexane. The resulting solid was diluted with diethyl ether (500 mL) and was stored at 0-4° C. overnight. The resulting crystals were filtered off and washed with iso-hexane, then dried to afford the title compound as colourless crystals and combined. The title product was obtained as white crystals.

reactant | N,N′-dimethylurea | 819 mmol, 72.1 g | CNC(=O)NC | C3H8N2O
reactant | acetic anhydride | 2701 mmol, 255 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 300 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 819 mmol, 100 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1,3,6-Trimethylpyrimidine-2,4(1H,3H)-dione | CN1C(N(C(C=C1C)=O)C)=O | C7H10N2O2
